US04005217
Concentrated hydrochloric acid (3 ml) was added dropwise to a stirred suspension of 1-methoxycarbonyl-3-(2-aminophenyl)thiourea in dry dioxan (75 ml), the temperature of the reaction mixture being maintained at 20°-25° C. during the addition by slight external cooling. The clear solution obtained was stirred for a further 30 minutes at 25° C. during which time a solid separated. This was filtered off, washed with acetone and recrystallised from ethanol to give 1-methoxycarbonyl-3-(2-aminophenyl)thiourea hydrochloride (5.1 g), m.p. 176°-178° C. (with decomposition).

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 1-methoxycarbonyl-3-(2-aminophenyl)thiourea | COC(=O)NC(=S)NC1=C(C=CC=C1)N | C9H11N3O2S
solvent | dioxan | 75 ml | O1CCOCC1 | C4H8O2
product | 1-methoxycarbonyl-3-(2-aminophenyl)thiourea hydrochloride | 5.1 g | Cl.COC(=O)NC(=S)NC1=C(C=CC=C1)N | InChI=1S/C9H11N3O2S.ClH/c1-14-9(13)12-8(15)11-7-5-3-2-4-6(7)10;/h2-5H,10H2,1H3,(H2,11,12,13,15);1H
